US03965015
Preparation of 1-n-Butyl-3-(10'-aminodecyl) urea
In a 500 ml flask protected with a soda lime tube is placed 10 g (0.058 mole) 1,10-diamino decane and 150 ml ether. A solution of 2.5 g (0.025 mole)n-butyl isocyanate in 25 ml ether is added and the reaction mixture stirred 1 hour. The precipitate is filtered, washed with ether, and dried to 15 g weight. Recrystallization from a mixture of 200 ml alcohol and 100 ml water gives 5.6 g white solids. An analytical sample recrystallized from acetonitrile melts at 83°-84.5°C.

reactant | 1,10-diamino decane | 0.058 mole, 10 g | NCCCCCCCCCCN | C10H24N2
reactant | n-butyl isocyanate | 0.025 mole, 2.5 g | C(CCC)N=C=O | C5H9NO
solvent | ether | 25 ml | CCOCC | C4H10O
solvent | ether | 150 ml | CCOCC | C4H10O
product | 1-n-Butyl-3-(10'-aminodecyl) urea | 5.6 g | C(CCC)NC(=O)NCCCCCCCCCCN | C15H33N3O
